US08242305B2
A 50-L, three-neck, round-bottom flask equipped with a mechanical stirrer and a thermocouple was charged with benzindene triol (1250 g), acetone (19 L) and K2CO3 (powdered) (1296 g), chloroacetonitrile (567 g), tetrabutylammonium bromide (36 g). The reaction mixture was stirred vigorously at room temperature (23±2° C.) for 16-72 h. The progress of the reaction was monitored by TLC. (methanol/CH2Cl2; 1:9 and developed by 10% ethanolic solution of PMA). After completion of reaction, the reaction mixture was filtered with/without Celite pad. The filter cake was washed with acetone (10 L). The filtrate was concentrated in vacuo at 50-55° C. to give a light-brown, viscous liquid benzindene nitrile. The crude benzindene nitrile was used as such in the next step without further purification.

reactant | benzindene triol | 1250 g | C1(C(=C(C2=CC=C3C(=C12)C=CC=C3)O)O)O | C13H10O3
reactant | acetone | 19 L | CC(=O)C | C3H6O
reactant | K2CO3 | 1296 g | C(=O)([O-])[O-].[K+].[K+]
reactant | chloroacetonitrile | 567 g | ClCC#N | C2H2ClN
catalyst | tetrabutylammonium bromide | 36 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
solvent | methanol CH2Cl2 | CO.C(Cl)Cl
product | benzindene nitrile | C1(C=CC2=CC=C3C(=C12)C=CC=C3)C#N | C14H9N
